US08629270B2
Benzyl(4aR,7aR)-2-(benzoylamino)-7a-(5-cyanothiophen-2-yl)-4a,5,7,7a-tetrahydropyrrolo[3,4-d][1,3]thiazine-6(4H)-carboxylate
Benzyl(4aR,7aR)-2-(benzoylamino)-7a-(5-bromothiophen-2-yl)-4a,5,7,7a-tetrahydropyrrolo[3,4-d][1,3]thiazine-6(4H)-carboxylate (3.88 g, 6.97 mmol), anhydrous potassium hexacyanoferrate (II) (2.57 g, 6.97 mmol) (prepared as cited in Schareina, T.; et al Synthesis, 2008, 20, 3351-3355), copper (I) iodide (398 mg, 2.09 mmol), 1-butylimidazole (2.8 mL, 20.9 mmol), and toluene (23 mL) are added to a 60 mL glass pressure tube fitted with a stirrer bar. A stream of nitrogen is passed over the mixture for a few minutes and the pressure tube is then sealed. The stirred mixture is heated at 145° C. for 18 hours. The resulting dark mixture is cooled to room temperature. The mixture is diluted with ethyl acetate (100 mL) and water (15 mL) and vacuum filtered through a pad of diatomaceous earth while rinsing with ethyl acetate (100 mL) and water (15 mL). The layers of the filtrate are separated and the organic layer is further washed with water (2×30 mL) and brine (30 mL). The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel flash chromatography eluting with a hexanes/ethyl acetate, gradient from 80:20 to 0:100, to give the title compound (2.59 g, 74%) as a white foam: ES/MS (m/z): 503.2 (M+H).

reactant | Benzyl(4aR,7aR)-2-(benzoylamino)-7a-(5-bromothiophen-2-yl)-4a,5,7,7a-tetrahydropyrrolo[3,4-d][1,3]thiazine-6(4H)-carboxylate | 6.97 mmol, 3.88 g | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C=2SC(=CC2)Br | C25H22BrN3O3S2
reactant | 1-butylimidazole | 20.9 mmol, 2.8 mL | C(CCC)N1C=NC=C1 | C7H12N2
reactant | toluene | 23 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 15 mL | O | H2O
catalyst | potassium hexacyanoferrate (II) | 6.97 mmol, 2.57 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[K+].[Fe+6]
catalyst | copper (I) iodide | 2.09 mmol, 398 mg | [Cu]I
product | Benzyl(4aR,7aR)-2-(benzoylamino)-7a-(5-cyanothiophen-2-yl)-4a,5,7,7a-tetrahydropyrrolo[3,4-d][1,3]thiazine-6(4H)-carboxylate | 2.59 g, 74% | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C=2SC(=CC2)C#N | C26H22N4O3S2
